US05750050
Step 7.1 Preparation of 1-Decyloxy-3-ethyl-5-methylbenzene.
Quantities: 3-ethyl-5-methylphenol (5.0 g, 0.036 mol), 1-bromodecane (11.05 g, 0.05 mol), K2CO3 (30.0 g, 0.2 mol).

reactant | 3-ethyl-5-methylphenol | 0.036 mol, 5.0 g | C(C)C=1C=C(C=C(C1)C)O | C9H12O
reactant | 1-bromodecane | 0.05 mol, 11.05 g | BrCCCCCCCCCC | C10H21Br
reactant | K2CO3 | 0.2 mol, 30.0 g | C(=O)([O-])[O-].[K+].[K+]
product | 1-Decyloxy-3-ethyl-5-methylbenzene | C(CCCCCCCCC)OC1=CC(=CC(=C1)C)CC | C19H32O
